US06583126B2
Step 2 isopropyl -4-[(E)-1-(4-fluorobenzoyl)-4-phenyl-3-butenyl]benzoate
To a solution of isopropyl-4-[2-(4-fluorophenyl)-2-oxoethyl]benzoate(0.970 g, 3.23 mmol) in DMF (10 ml) at 0° C. was added NaH (0.100 g, 4.16 mmol). After a period of 0.5 h to the reaction mixture was added a solution of cinnamyl bromide (0.630 g, 3.21 mmol) in DMF (10 ml), and the reaction was stirred at room temperature for 1 hour. Saturated ammonium acetate solution (20 ml) was added and the mixture was extracted with ethyl acetate (20 ml). The organic phase was washed with brine and dried over sodium sulfate, filtered and evaporated to dryness. The residue was purified by flash chromatography using a gradient from hexane/ethyl acetate 2% to hexanel ethyl acetate 10% giving 0.39 g of the title compound.

reactant | isopropyl-4-[2-(4-fluorophenyl)-2-oxoethyl]benzoate | 3.23 mmol, 0.970 g | C(C)(C)OC(C1=CC=C(C=C1)CC(=O)C1=CC=C(C=C1)F)=O | C18H17FO3
reactant | NaH | 4.16 mmol, 0.100 g | [H-].[Na+]
reactant | cinnamyl bromide | 3.21 mmol, 0.630 g | C(C=CC1=CC=CC=C1)Br | C9H9Br
reactant | ammonium acetate | 20 ml | C(C)(=O)[O-].[NH4+]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | isopropyl -4-[(E)-1-(4-fluorobenzoyl)-4-phenyl-3-butenyl]benzoate | 0.39 g | C(C)(C)OC(C1=CC=C(C=C1)C(C\C=C\C1=CC=CC=C1)C(C1=CC=C(C=C1)F)=O)=O | C27H25FO3
